US04367238
Ozone gas was introduced to a solution of o-tolyl 2-methoxy-3-(1-propenyl)phenyl ether (30 g) in a mixture of ethyl acetate (200 ml) and glacial acetic acid (10 ml) with stirring under cooling for an hour. The reaction mixture was treated in a similar manner to that of Example 4-(3) to give oily 2-methoxy-3-(o-tolyloxy)benzaldehyde (28 g)

reactant | Ozone | O=[O+][O-] | O3
reactant | o-tolyl 2-methoxy-3-(1-propenyl)phenyl ether | 30 g | COC1=C(C=CC=C1C=CC)OC=1C(=CC=CC1)C | C17H18O2
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 2-methoxy-3-(o-tolyloxy)benzaldehyde | 28 g | COC1=C(C=O)C=CC=C1OC1=C(C=CC=C1)C | C15H14O3
